US06887875B2
Pd/C (10%, 1.6 g) is added to a solution of 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine (16.35 g, 45.635 mmol) in MeOH (450 ml) at room temperature. The suspension is stirred under hydrogen at room temperature for 5 hours. The catalyst is removed by filtration and the filtrate is concentrated under reduced pressure to give 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine as a gum. Rf (hexane/EtOAc=9:1)=0.18.

reactant | 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine | 45.635 mmol, 16.35 g | COC1=NC(=C(C=C1[N+](=O)[O-])C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C15H13F3N2O5
solvent | MeOH | 450 ml | CO | CH4O
catalyst | Pd/C | 1.6 g | [Pd] | Pd
product | 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine | COC1=NC(=C(C=C1N)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C15H15F3N2O3
